US09120788B2
Step 2. Synthesis of azetidin-1-yl[3-(4-chloro-3-fluorophenyl)-3H-imidazo[4,5-b]pyridin-2-yl]methanone (10)
3-(4-Chloro-3-fluorophenyl)-2-(trichloromethyl)-3H-imidazo[4,5-b]pyridine (C20) (50 mg, 0.14 mmol) was dissolved in a 3:1 mixture of acetonitrile and water (1.4 mL). Azetidine hydrochloride (25.6 mg, 0.274 mmol) was added, followed by an aqueous solution of potassium carbonate (4 M, 0.15 mL, 0.60 mmol), and the reaction mixture was heated at 50° C. for 22 hours, then at 80° C. for 3 hours, and finally at 100° C. for 18 hours. The layers were separated, and the organic layer was concentrated in vacuo; purification via reversed phase HPLC (Column: Waters Sunfire C18, 5 μm; Mobile phase A: 0.05% trifluoroacetic acid in water (v/v); Mobile phase B: 0.05% trifluoroacetic acid in acetonitrile (v/v); Gradient: 30% to 50% B) afforded the product. Yield: 17 mg, 51 μmol, 36%. LCMS m/z 331.1, 333.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6) δ 8.45 (dd, J=4.6, 1.5 Hz, 1H), 8.30 (dd, J=7.9, 1.3 Hz, 1H), 7.76 (dd, J=8.3, 8.3 Hz, 1H), 7.73 (dd, J=10.1, 2.2 Hz, 1H), 7.46 (dd, J=8.1, 4.6 Hz, 1H), 7.40-7.43 (m, 1H), 4.64-4.68 (m, 2H), 4.02-4.07 (m, 2H), 2.29-2.35 (m, 2H).

reactant | 3-(4-Chloro-3-fluorophenyl)-2-(trichloromethyl)-3H-imidazo[4,5-b]pyridine | 0.14 mmol, 50 mg | ClC1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(Cl)(Cl)Cl)F | C13H6Cl4FN3
reactant | Azetidine hydrochloride | 0.274 mmol, 25.6 mg | Cl.N1CCC1
reactant | potassium carbonate | 0.60 mmol, 4 M, 0.15 mL | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 1.4 mL | O | H2O
product | azetidin-1-yl[3-(4-chloro-3-fluorophenyl)-3H-imidazo[4,5-b]pyridin-2-yl]methanone | N1(CCC1)C(=O)C1=NC=2C(=NC=CC2)N1C1=CC(=C(C=C1)Cl)F | C16H12ClFN4O
